US04794188
2-[5-(1-Hydroxyhexyl)-2-pyridyloxymethyl]indole
2-Chloromethyl indole (8 g, 0,048 mol) and 2-hydroxy-5-(1-hydroxyhexyl)pyridine (9.36 g, 0.048 mol) were dissolved in DMSO (250 ml) and to this mixture, 2N sodium hydroxide solution was added (25 ml, 0.05 mol). The clear, homogeneous reaction mixture became warm, and this mixture was stirred at room temperature overnight. The solution was poured into warer (500 ml), and was extracted thoroughly with ethyl acetate (4×50 ml). The combined extract was washed with 1N sodium hydroxide sclution, water and brine. After drying the organic extract over MgSO4, all volatiles were removed to leave a brown oil (9 g). This crude product was purified by HPLC (silica gel, 20% ethyl acetate in hexane) to yield the pure product (8.6 g, 55%) as a yellowish semi-solid.

reactant | 2-Chloromethyl indole | 0,048 mol, 8 g | ClCC=1NC2=CC=CC=C2C1 | C9H8ClN
reactant | 2-hydroxy-5-(1-hydroxyhexyl)pyridine | 0.048 mol, 9.36 g | OC1=NC=C(C=C1)C(CCCCC)O | C11H17NO2
solvent | DMSO | 250 ml | CS(=O)C | C2H6OS
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 2-[5-(1-Hydroxyhexyl)-2-pyridyloxymethyl]indole | 9 g | OC(CCCCC)C=1C=CC(=NC1)OCC=1NC2=CC=CC=C2C1 | C20H24N2O2
